US04334088
(3) Ethyl [6,7-dichloro-1-oxo-2-(p-fluorophenyl)-5-indanyloxy]acetate
Reaction of 6,7-dichloro-5-hydroxy-2-(p-fluorophenyl)-1-indanone with ethyl bromoacetate according to the procedure of Example 1, STEP (a), affords the title compound. Crystallization from ethanol provides analytically pure material, m.p. 143°-144°.

reactant | 6,7-dichloro-5-hydroxy-2-(p-fluorophenyl)-1-indanone | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C1=CC=C(C=C1)F)O | C15H9Cl2FO2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl [6,7-dichloro-1-oxo-2-(p-fluorophenyl)-5-indanyloxy]acetate | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C1=CC=C(C=C1)F)OCC(=O)OCC | C19H15Cl2FO4
